US07759369B2
(e). 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-3-methyl-2-pyridinecarbonitrile
To a solution of 6-(Chloromethyl)-3-methyl-2-pyridinecarbonitrile (132.5 mg) in dry toluene (4 ml) and ethanol (4 ml) was added (5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)boronic acid (250 mg), potassium carbonate (330 mg) and tetrakis(triphenylphosphine)palladium(0) (92 mg) and the mixture stirred under reflux for 2.5 hours. Solvent was removed in vacuo and water (20 ml) and ether (20 ml) added. Insoluble solid was filtered over Celite and washed with ether. The aqueous layer was further extracted with ether (15 ml) and the combined extracts washed with brine (10 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by mass-directed autopreparation to afford the title compound (204 mg, 64%) as a white solid.

reactant | 6-(Chloromethyl)-3-methyl-2-pyridinecarbonitrile | 132.5 mg | ClCC1=CC=C(C(=N1)C#N)C | C8H7ClN2
reactant | (5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)boronic acid | 250 mg | ClC=1C=CC(=C(C1)B(O)O)OCC1=C(C=C(C=C1)Cl)F | C13H10BCl2FO3
reactant | potassium carbonate | 330 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-3-methyl-2-pyridinecarbonitrile | 204 mg, 64% | ClC=1C=CC(=C(C1)CC1=CC=C(C(=N1)C#N)C)OCC1=C(C=C(C=C1)Cl)F | C21H15Cl2FN2O
